US09056859B2
A solution of 5-(2,3-dihydroxypropyl)-2-fluoro-4-methoxybenzonitrile (2.0 mmol) in 10 mL of methanol/water=3:1 was cooled to 0° C. by ice bath, and then NaIO4 (3.0 mmol) was added. After stirred the reaction at 0° C. for 2 hrs, the mixture was filtered and concentrated. The residue was dissolved in DCM, dried over anhydrous sodium sulfate, and then purified with fast column chromatography to give the product 2-fluoro-4-methoxy-5-(2-oxoethyl)benzonitrile.

reactant | 5-(2,3-dihydroxypropyl)-2-fluoro-4-methoxybenzonitrile | 2.0 mmol | OC(CC=1C(=CC(=C(C#N)C1)F)OC)CO | C11H12FNO3
solvent | methanol water | 10 mL | CO.O
product | 2-fluoro-4-methoxy-5-(2-oxoethyl)benzonitrile | FC1=C(C#N)C=C(C(=C1)OC)CC=O | C10H8FNO2
